US03992535
N-(3-Chloro-phenyl)-4-hydroxy-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide
A mixture consisting of 1 gm (3.3 millimols) of 4-hydroxy-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methyl ester-1,1-dioxide, 0.5 gm (4 millimols) of 3-chloroaniline and 200 ml of anhydrous xylene was refluxed for 25 hours in a Soxhlet apparatus equippedwith a 4-A-molecular sieve. Upon cooling, the desired product crystallized out. Yield: 0.9 gm (68% of theory); m.p. 262° C (decomp.).

reactant | 4-hydroxy-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methyl ester-1,1-dioxide | 3.3 millimols, 1 gm | COC(=O)C=1NS(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O | C14H11NO5S
reactant | 3-chloroaniline | 4 millimols, 0.5 gm | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-(3-Chloro-phenyl)-4-hydroxy-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | ClC=1C=C(C=CC1)NC(=O)C=1NS(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O | C19H13ClN2O4S
